US07820823B2
[(5S)-3-(3-Fluoro-4-piperazin-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-dithiocarbamic Acid Methyl Ester
A suspension of 510 mg 4-{2-fluoro-4-[(5S)-5-(methyl-sulfanylthiocarbonylamino-methyl)2-oxo-oxazolidin-3-yl]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (1.05 mmol) in 1.25 M/methanol was stirred for 5 days. The solvent was evaporated and the residue digested in water. The water layer was neutralized at pH 7 with a saturated solution of sodium bicarbonate and evaporated to dryness. The residue was digested in CH2Cl2/MeOH. The salts were filtered and the solvent evaporated:

reactant | 4-{2-fluoro-4-[(5S)-5-(methyl-sulfanylthiocarbonylamino-methyl)2-oxo-oxazolidin-3-yl]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 1.05 mmol, 510 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@@H](C1)C(NC(=S)S)C)=O)F | C21H29FN4O4S2
reactant | methanol | CO | CH4O
product | [(5S)-3-(3-Fluoro-4-piperazin-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-dithiocarbamic Acid Methyl Ester | CSC(NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCNCC1)F)=S | C16H21FN4O2S2
